US04876249
Preparation of 4-Methyl-4-t-butyl-2-undecyl-2-imidazoline
15 g of 2-cyano-2-decanoylamino-3,3-dimethylbutane (prepared from acylation of aminonitrile obtained from treatment of pinacolone with sodium cyanide and ammonium chloride) in 250 ml of 95% ethanol and 70 ml of ammonium hydroxide was hydrogenated with T-1 Raney Nickel. The catalyst was filtered off. The filtrate was concentrated and the residue was distilled at reduced pressure to give 7.5 g (52%) of the product.

reactant | 2-cyano-2-decanoylamino-3,3-dimethylbutane | 15 g | C(#N)C(C)(C(C)(C)C)NC(CCCCCCCCC)=O | C17H32N2O
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | ammonium hydroxide | 70 ml | [OH-].[NH4+]
catalyst | Raney Nickel | [Ni] | Ni
product | 4-Methyl-4-t-butyl-2-undecyl-2-imidazoline | 7.5 g, 52% | CC1(N=C(NC1)CCCCCCCCCCC)C(C)(C)C | C19H38N2
